US08071631B2
3,4-Dimethoxy-N-(1-methyl-3-phenyl-1,2,4-triazol-5-yl)benzenesulfonamide
To a solution of 1-methyl-3-phenyl-1,2,4-triazol-5-amine (320 mg, 2 mmol) in 10 mL dry pyridine was added 529 mg (2.23 mmol) of 3,4-dimethoxybenzenesulfonyl chloride. The solution was stirred at room temperature under Argon. After 21 h, the pyridine was removed in vacuo and flashed off with toluene. The salt was partitioned between EtOAc and water. The EtOAc phase was extracted alternately with 1M NaOH and H2O. The basic phase was made acid (pH˜3) with 1M HCl and extracted with EtOAc. The organic phase was evaporated in vacuo, toluene was added and was again evaporated in vacuo to give a white solid. The product was taken up in hot HOAc (16 mL), diluted with H2O (10 mL) and seeded to give 143 mg of white needles with mp 279-280° C. after drying in vacuo.

reactant | 1-methyl-3-phenyl-1,2,4-triazol-5-amine | 2 mmol, 320 mg | CN1N=C(N=C1N)C1=CC=CC=C1 | C9H10N4
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 2.23 mmol, 529 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | HOAc | 16 mL | CC(=O)O | C2H4O2
solvent | H2O | 10 mL | O | H2O
product | 3,4-Dimethoxy-N-(1-methyl-3-phenyl-1,2,4-triazol-5-yl)benzenesulfonamide | 143 mg | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=NC(=NN1C)C1=CC=CC=C1 | C17H18N4O4S
